US06838463B2
In 6 ml of N,N-dimethylformamide were dissolved 150 mg of 4-chloro-6-(2,3-difluorophenyl)pyrimidine and 56 mg of 3-butyn-2-ol, to which 32 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 12 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 120 mg of 4-(2,3-difluorophenyl)-6-(1-methyl-2-propynyloxy)pyrimidine (the present compound (134)).

reactant | 4-chloro-6-(2,3-difluorophenyl)pyrimidine | 150 mg | ClC1=NC=NC(=C1)C1=C(C(=CC=C1)F)F | C10H5ClF2N2
reactant | 3-butyn-2-ol | 56 mg | CC(C#C)O | C4H6O
reactant | sodium hydride | 32 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-(2,3-difluorophenyl)-6-(1-methyl-2-propynyloxy)pyrimidine | 120 mg | FC1=C(C=CC=C1F)C1=NC=NC(=C1)OC(C#C)C | C14H10F2N2O
